USH0000253
2-(Trinitromethyl)-1,4-butanediol
A 1M solution of borane-THF (10 ML, 10 mmole) was stirred under a nitrogen atmosphere in a cold water bath (15° C.) while 2.1 g (8.94 mmole) of 4-hydroxy-3-(trinitromethyl)butyric acid, gamma-lactone was added. The solution was stirred at 25° C. for 1 hr. and then at 35°-37° C. for 3 days before it was cooled to room temperature and 1 ml of water was slowly added dropwise. Most of the THF was removed and the residue was stirred with ether. The insoluble material (boric acid) was removed by filtration and the ether filtrate was extracted twice with water to remove remaining boric acid. The ether was removed to give 2.10 g (98%) of an oil which was essentially pure by TLC. An analytical sample was obtained by chromatography on silica gel 60 with methylene chloride-acetone (80/20) as eluent: 1H NMR (CD2Cl2) 1.90-2.12 (m, 2H), 2.44 (broad OH), 3.60 (broad m, 1H), 3.93 (t, 2H), 4.23 (d, 2H); IR (film) 3700-3050 (OH), 1600 (NO2) cm-1.

reactant | borane THF | 10 mmole | B.C1CCOC1
reactant | 4-hydroxy-3-(trinitromethyl)butyric acid | 8.94 mmole, 2.1 g | OCC(CC(=O)O)C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C5H7N3O9
solvent | water | 1 ml | O | H2O
product | 2-(Trinitromethyl)-1,4-butanediol | 2.10 g, 98% | [N+](=O)([O-])C(C(CO)CCO)([N+](=O)[O-])[N+](=O)[O-] | C5H9N3O8
